US05068334
1-Methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
3.36 g (0.0206 mol) of 7,8-dihydro-2,5(1H,6H)-quinolinedione are stirred with 5.69 g (2×0.0206 mol) of powdered anhydrous potassium carbonate and 1.92 ml (1.5×0.0206 mol) of methyl iodide in 35 ml of dimethylformamide for 16 hours at ambient temperature. The mixture is then suction filtered, the solvent is evaporated off in vacuo and the residue is recrystallised from chloroform/ethyl acetate. Melting point: 203°-205° C., Yield: 3.1 g (84.9% of theory).

reactant | 7,8-dihydro-2,5(1H,6H)-quinolinedione | 0.0206 mol, 3.36 g | N1C(C=CC=2C(CCCC12)=O)=O | C9H9NO2
reactant | potassium carbonate | 0.0206 mol, 5.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.0206 mol, 1.92 ml | CI | CH3I
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | CN1C(C=CC=2C(CCCC12)=O)=O | C10H11NO2
